US04581369
To a solution of 4.8 g of 3-(4-chlorobenzoyl)-2-(1-imidazolyl)pyridine in 35 ml of ethanol and 5 ml of water is added 0.64 g of sodium borohydride. After the mixture is stirred at room temperature for an hour, the reaction mixture is poured into water and extracted with chloroform. The chloroform is distilled off and the residue is recrystallized from toluene to give 4.3 g of α-(4-chlorophenyl)-2-(1-imidazolyl)-3-pyridinemethanol as white crystals, melting at 133°-134° C.

reactant | 3-(4-chlorobenzoyl)-2-(1-imidazolyl)pyridine | 4.8 g | ClC1=CC=C(C(=O)C=2C(=NC=CC2)N2C=NC=C2)C=C1 | C15H10ClN3O
reactant | sodium borohydride | 0.64 g | [BH4-].[Na+]
solvent | ethanol | 35 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | α-(4-chlorophenyl)-2-(1-imidazolyl)-3-pyridinemethanol | 4.3 g | ClC1=CC=C(C=C1)C(O)C=1C(=NC=CC1)N1C=NC=C1 | C15H12ClN3O
